* SpiceNetList
* 
* Exported from Fuzz.sch at 06/09/2020 19:12
* 
* EAGLE Version 9.3.0 Copyright (c) 1988-2019 Autodesk, Inc.
* 
.TEMP=25.0

* --------- .OPTIONS ---------
.OPTIONS ABSTOL=1e-12 GMIN=1e-12 PIVREL=1e-3 ITL1=100 ITL2=50 PIVTOL=1e-13 RELTOL=1e-3 VNTOL=1e-6 CHGTOL=1e-15 ITL4=10 METHOD=TRAP SRCSTEPS=0 TRTOL=7 NODE

* --------- .PARAMS ---------

* --------- devices ---------
C_C3 OUT RAW 0.01u 
Q_Q2 FULL INT N_1 QNPN 
V_V2 9V 0 9V 
R_R2 0 FIN 30k 
C_C1 FIN SIG 0.1u 
Q_Q1 INTRAW FIN 0 QNPN 
R_R8 INT 9V 10k 
R_R5 RAW 9V 3k 
R_R3 INTRAW 9V 33k 
R_R4 FULL RAW 1k 
R_R7 0 OUT 100k 
C_C2 0 0 20u 
R_R6 0 N_1 10k 
V_V1 SIG 0 SINE (0 0.5 2k 0 0) 
C_C4 INT INTRAW 0.1u 
R_R1 FIN 9V 100k 
R_R9 0 INT 10k 

* --------- models ---------

* (model found in library)

**********************
* Autodesk EAGLE - Spice Model File
* Date: 9/17/17
* basic npn intrinsic model
**********************
.MODEL QNPN NPN


* --------- simulation ---------


.control
set filetype=ascii
TRAN 4e-5 0.12 0.1 4e-5 
write Fuzz.sch.sim V(FIN) V(RAW) V(OUT) V(SIG) V(FULL) V(INT) V(INTRAW) I(V_V1) I(V_V2)
.endc

.END










